US04092150
A stirred solution of 3.5 grams of 4,6-dichloro-2-isopropylamino-5-pyrimidinecarbonitrile in 100 ml of acetone was cooled to between 0° and -5°; a solution of 2.1 grams of aqueous 70% ethylamine in 25 ml of acetone was added dropwise. Upon complete addition, the reaction mixture was warmed to room temperature and stirred for 18 hours. The acetone was removed under reduced pressure, and the residue was extracted with a mixture of diethyl ether and water. The organic layer was separated and dried over magnesium sulfate. The mixture was filtered, and the filtrate was evaporated to dryness under reduced pressure. The residue was recrystallized from methylcyclohexane to give 3.1 grams of 4-chloro-6-ethylamino-2-isopropylamino-5-pyrimidinecarbonitrile; mp, 144°-146°.

reactant | 4,6-dichloro-2-isopropylamino-5-pyrimidinecarbonitrile | 3.5 grams | ClC1=NC(=NC(=C1C#N)Cl)NC(C)C | C8H8Cl2N4
reactant | ethylamine | C(C)N | C2H7N
solvent | acetone | 100 ml | CC(=O)C | C3H6O
solvent | acetone | 25 ml | CC(=O)C | C3H6O
product | 4-chloro-6-ethylamino-2-isopropylamino-5-pyrimidinecarbonitrile | 3.1 grams | ClC1=NC(=NC(=C1C#N)NCC)NC(C)C | C10H14ClN5
